US06388086B1
Under argon gas, a solution of diisopropylamine (5.57 g, 55 mmol) in tetrahydrofuran (5 mL) was added dropwise to n-butyllithium (1.53 M in hexane, 31.8 mL, 50 mmol) at 5° C. and the mixture was stirred for 30 minutes. To this was further added a solution of 3-methylpyridine (5.588 g, 30 mmol) in tetrahydrofuran (5 mL) dropwise at 5° C., and the mixture was stirred for 30 minutes. Then, N,N-dimethylaniline (3.64 g, 30 mmol) was added and the mixture was further stirred at 5° C. for 30 minutes. To this was added a solution of glycidol (1.480 g, 20 mmol) in tetrahydrofuran (5 mL) at 5° C., and the reaction was carried out for 2 hours. This reaction mixture was diluted with 30 mL of water for hydrolysis and concentrated under reduced pressure. The residue was extracted with ethyl acetate twice (200 mL each). The organic layers were combined and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residual oil was purified by silica gel column chromatography (Merck's Kieselgel 60, MeOH/ethyl acetate=1/9) to give 2.505 g (isolation yield; 75%) of 4-(3-pyridyl)-1,2-butanediol (yellow oil).

reactant | diisopropylamine | 55 mmol, 5.57 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 50 mmol, 1.53 M, 31.8 mL | C(CCC)[Li]
reactant | 3-methylpyridine | 30 mmol, 5.588 g | CC=1C=NC=CC1 | C6H7N
reactant | N,N-dimethylaniline | 30 mmol, 3.64 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | glycidol | 20 mmol, 1.480 g | C1C(O1)CO | C3H6O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 4-(3-pyridyl)-1,2-butanediol | 2.505 g, yield; 75% | N1=CC(=CC=C1)CCC(CO)O | C9H13NO2
